US06548494B1
6-(3-Pyrrolidin-1-ylmethyl-phenyl)-3,4-dihydro-2H-[1,4]diazepino[6,7,1-hi]indol-1-one
Using the reductive amination procedure described in Example 82, the title compound was synthesized from 3-(1-oxo-1,2,3,4-tetrahydro-[1,4]diazepino[6,7,1-hi]indol-6-yl)-benzaldehyde and pyrrolidine in 92% yield as a pale-yellow solid: mp 158-160° C.; 1H NMR (DMSO-d6) δ 1.71 (br s, 4H), 2.49 (br s, 4H), 3.49 (br s, 2H), 3.68 (br s, 2H), 4.30-4.33 (m, 2H), 6.70 (s, 1H), 7.17 (t, 1H, J=9.0 Hz), 7.38-7.52 (m, 4H), 7.79 (d, 1H, J=9.0 Hz), 7.82 (d, 1H, J=9.0 Hz), 8.38 (t, 1H, J=6.0 Hz). HRMS calcd. for C22H23N3O 345.1841 (M+), found 345.1848. Anal. (C22H23N3O.0.4 H2O) C, H, N.

reactant | 3-(1-oxo-1,2,3,4-tetrahydro-[1,4]diazepino[6,7,1-hi]indol-6-yl)-benzaldehyde | O=C1CNCC=2C=C(C=C3C=CN1C23)C=2C=C(C=O)C=CC2 | C18H14N2O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | H2O | O | H2O
product | 6-(3-Pyrrolidin-1-ylmethyl-phenyl)-3,4-dihydro-2H-[1,4]diazepino[6,7,1-hi]indol-1-one | 92% yield | N1(CCCC1)CC=1C=C(C=CC1)C=1C=C2C=CN3C2=C(C1)CNCC3=O | C22H23N3O
